US09056112B2
1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine (20 gm) and methyl isobutyl ketone (MIBK 200 mL) were charged into a 1000 mL round bottomed flask equipped with a mechanical stirrer. Potassium carbonate (18.3 gm) and (R)-piperidine-3-amine (11.5 gm) were added to the reaction mixture at room temperature. The reaction mixture was heated to 95° C. and maintained at that temperature for 8 hours. The reaction mixture was cooled to room temperature and filtered and washed with MIBK (40 mL). The filtrate was charged into another flask and added 10% aqueous acetic acid solution and stirred for one hour at room temperature. The aqueous layer was separated and washed with 60 mL of dichloromethane. The aqueous layer was charged into another flask and 200 mL of dichloromethane and 100 mL of aqueous sodium hydroxide solution (16 gm of sodium hydroxide in 100 mL of water) was added drop-wise at room temperature. The mixture was stirred for one hour at room temperature and the organic layer was separated and the aqueous layer was extracted with 100 ml of dichloromethane. Combined the organic layers and evaporated under vacuum at below 45° C. Hexane (100 mL) was added to the residue and stirred for 3 hours at 30° C. Filtered the compound and washed with Hexane (40 mL) and dried the compound at below 60° C. under vacuum to give 17.6 gm of Linagliptin. PXRD pattern: FIG. 2, Purity: 98.92%

reactant | 1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine | 20 gm | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C20H17BrN6O2
reactant | Potassium carbonate | 18.3 gm | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-piperidine-3-amine | 11.5 gm | N1C[C@@H](CCC1)N | C5H12N2
solvent | methyl isobutyl ketone | 200 mL | C(C(C)C)C(=O)C | C6H12O
product | Linagliptin | 17.6 gm | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
